US06156774
2-(m-Bromophenyl)-1,3-dioxolane
To a stirred solution of 3-bromobenzaldehyde (5.00 g, 27.0 mmol) in toluene (35 ml) was added ethylene glycol (4.52 ml, 81.1 mmol) and p-toluenesulphonic acid (0.5 g). The mixture was heated to reflux for 2 hours, cooled, and washed with water and saturated sodium hydrogen carbonate solution. The organic layer was dried over MgSO4. The solvent was removed under reduced pressure to give the desired product as a colourless oil (6.22 g, 100%). δH (CDCl3) 4.09 (4H, m), 5.79 (1H, s), 7.2-7.7 (4H) ppm.

reactant | 3-bromobenzaldehyde | 27.0 mmol, 5.00 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | ethylene glycol | 81.1 mmol, 4.52 ml | C(CO)O | C2H6O2
reactant | p-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(m-Bromophenyl)-1,3-dioxolane | 6.22 g, 100% | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
